US04863920
3.73 g (10 mmol) of 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was stirred at room temperature for 20 hours with 1.12 g (11 mmol) of phenylacetylene, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 10 mg of copper(I) iodide in 20 ml of diethylamine. The reaction mixture was diluted with methylene chloride and washed twice with water. The organic phase was dried over magnesium sulphate and evaporated. After recrystallization of the residue from ethyl acetate there was obtained 7-chloro-4,5-dihydro-5-methyl-3-(phenylethynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 205°-206°.

reactant | 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 3.73 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9ClIN3O
reactant | phenylacetylene | 11 mmol, 1.12 g | C1(=CC=CC=C1)C#C | C8H6
solvent | diethylamine | 20 ml | C(C)NCC | C4H11N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | 7-chloro-4,5-dihydro-5-methyl-3-(phenylethynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC1=CC=CC=C1)C)=O | C20H14ClN3O
